US06716863B2
(i) (2R)-1-(benzyloxy)-3-(1-trityl-1H-imidazol-2-yl)-2-propanol
In an argon atmosphere, n-butyllithium (1.6 M solution in hexane, 6.9 ml) was added drop by drop to a solution of 1-tritylimidazole (3.10 g) in THF (80 ml) under ice cooling. After stirring at the same temperature for 30 minutes, (R)-2-[(benzyloxy)methyl]oxirane (1.52 ml) was added. After stirring under ice cooling for 1.5 hours and at room temperature for 1 hour, water was added and the reaction mixture was extracted with ethyl acetate. The extract was washed with water and saline and dried over magnesium sulfate, after which it was concentrated under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane 1:1) to yield the titled compound (1.402 g) as a pale-yellow oily substance.

reactant | n-butyllithium | 1.6 M, 6.9 ml | C(CCC)[Li]
reactant | 1-tritylimidazole | 3.10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC=C1 | C22H18N2
reactant | (R)-2-[(benzyloxy)methyl]oxirane | 1.52 ml | C(C1=CC=CC=C1)OC[C@@H]1OC1 | C10H12O2
reactant | water | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | (2R)-1-(benzyloxy)-3-(1-trityl-1H-imidazol-2-yl)-2-propanol | 1.402 g | C(C1=CC=CC=C1)OC[C@@H](CC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C32H30N2O2
